US08309562B2
4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-benzonitrile
To a solution of formic acid 30 mL and acetic anhydride 30 mL stirred at room temperature for 1 h was added a solution of 4-aminobenzonitrile 2.36 g (20.0 mmol) in CH2Cl2 150 mL dropwise at 0° C. The reaction mixture was stirred at room temperature for 4 h (EMI-mass: 146 [M]+). After concentration, the crude intermediate was dissolved in THF 50 mL, and was added BH3 in Me2S 15 mL. The reaction mixture was then stirred for 5 h under reflux. The crude product was extracted with EtOAc, washed with water, sat. Na2CO3 aqueous solution and dried on anhydrous MgSO4. After removal of solvents, 4-cyano-N-methylaniline was obtained in 80% purity based on GC/MS (EMI-mass: 132 [M]+). A mixture of crude 4-cyano-N-methylaniline 0.40 g (ca. 2 mmol) and 4-chloro-2-methylquinazoline 0.357 g (2.0 mmol) with NaOAc 0.2 g (2.3 mmol) in THF 20 mL and H2O 12 mL was stirred at 23° C. for 4 days. After removing solvents, the crude product was purified with preparative HPLC to give the titled compound in 1% yield (10 mg). 1H NMR (CD3OD, 400 MHz): δ 7.94 (d, 2H, J=8.8 Hz), 7.91-7.86 (m, 1H), 7.76-7.73 (m, 1H), 7.65 (d, 2H, J=8.8 Hz), 7.34-7.30 (m, 1H), 6.99-6.96 (m, 1H), 3.87 (s, 3H), 2.81 (s, 3H). m/e: 275.1420 (M+1).

reactant | 4-cyano-N-methylaniline | ca. 2 mmol, 0.40 g | C(#N)C1=CC=C(NC)C=C1 | C8H8N2
reactant | 4-chloro-2-methylquinazoline | 2.0 mmol, 0.357 g | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | NaOAc | 2.3 mmol, 0.2 g | CC(=O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 12 mL | O | H2O
product | 4-[Methyl-(2-methyl-quinazolin-4-yl)-amino]-benzonitrile | 1% yield | CN(C1=CC=C(C#N)C=C1)C1=NC(=NC2=CC=CC=C12)C | C17H14N4
